US04439433
A mixture of 12.9 g of the syn isomer of 2-(hydroxyimino)-2-(2-tritylamino-4-thiazolyl)-acetic acid, 60 ml of dry dimethylformamide and 7.6 ml of acetonitrile was stirred under an inert atmosphere until the mass solidified and the mixture stood for 65 hours in a closed atmosphere. The mass was poured into a mixture of 750 ml of water, 130 ml of N hydrochloric acid and 150 ml of ethyl acetate and the mixture was stirred and was vacuum filtered. The filter was rinsed with ethyl acetate and with water and the decanted organic phase was washed with 100 ml of water. The wash water was extracted 3 times with 100 ml of ethyl acetate. The combined organic phases were dried and vacuum filtered. The filter was rinsed and the filtrate was evaporated to dryness. The residue was chromatographed over silica gel and elution with ether. The ether was evaporated to obtain 8.69 g of the syn isomer of cyanomethyl 2-(cyanomethyloxyimino)-2-(2-tritylamino-4-thiazolyl)-acetate in the form of an oil.

reactant | 2-(hydroxyimino)-2-(2-tritylamino-4-thiazolyl)-acetic acid | ON=C(C(=O)O)C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H19N3O3S
reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
reactant | acetonitrile | 7.6 ml | C(C)#N | C2H3N
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 750 ml | O | H2O
product | cyanomethyl 2-(cyanomethyloxyimino)-2-(2-tritylamino-4-thiazolyl)-acetate | C(#N)CON=C(C(=O)OCC#N)C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H21N5O3S
